US07179823B1
A mixture of 3-[4-(2-ethoxycarbonylethyl)-3-phenyl-1H-pyrazol-1-ylmethyl]benzoic acid (700 mg), 4-trifluoromethylbenzylamine (390 mg), 1-hydroxybenzotriazole monohydrate (340 mg), WSC (430 mg), and N,N-dimethylformamide (30 ml) was stirred at room temperature for 18 hours. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatography, and ethyl 3-[3-phenyl-1-[3-(4-trifluoromethylbenzylaminocarbonyl)benzyl]-1H-pyrazol-4-yl]propionate (900 mg, yield: 91%) was obtained as an oily substance from the fraction eluted with acetone-hexane (1:2, volume ratio).

reactant | 3-[4-(2-ethoxycarbonylethyl)-3-phenyl-1H-pyrazol-1-ylmethyl]benzoic acid | 700 mg | C(C)OC(=O)CCC=1C(=NN(C1)CC=1C=C(C(=O)O)C=CC1)C1=CC=CC=C1 | C22H22N2O4
reactant | 4-trifluoromethylbenzylamine | 390 mg | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
reactant | 1-hydroxybenzotriazole monohydrate | 340 mg | O.ON1N=NC2=C1C=CC=C2
reactant | WSC | 430 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | ethyl 3-[3-phenyl-1-[3-(4-trifluoromethylbenzylaminocarbonyl)benzyl]-1H-pyrazol-4-yl]propionate | 900 mg, yield: 91% | C1(=CC=CC=C1)C1=NN(C=C1CCC(=O)OCC)CC1=CC(=CC=C1)C(=O)NCC1=CC=C(C=C1)C(F)(F)F | C30H28F3N3O3
